US06870978B2
2,2′-Bis(trifluoromethyl)biphenyl (2)
To a 2-L three-necked, round-bottom flask fitted with a mechanical stirrer and a condenser was added 507.5 g of 2-iodotrifluoromethylbenzene (1.86 mol), 282.0 g of copper powder and 400 ml of DMF. The reaction mixture was stirred and heated at reflux for 24 hours and filtered. The filtrate was distilled under reduced pressure to yield 211.8 g (78%) of a light yellow oil.

reactant | 2-iodotrifluoromethylbenzene | 1.86 mol, 507.5 g | IC1=C(C=CC=C1)C(F)(F)F | C7H4F3I
catalyst | copper | 282.0 g | [Cu] | Cu
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 2,2′-Bis(trifluoromethyl)biphenyl | 211.8 g, 78% | FC(C1=C(C=CC=C1)C1=C(C=CC=C1)C(F)(F)F)(F)F | C14H8F6
